US09340556B2
A mixture of ethyl 8-fluoro-6,7-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate (41 g, 139 mmol) and potassium carbonate (28.8 g, 208 mmol) in triethyl phosphate (118 ml, 694 mmol) was stirred at 120° C. for 5 h. LCMS indicated completion of the reaction. Then the reaction mixture was cooled down and diluted with water, extracted with DCM, dried over sodium sulfate and evaporated in vacuo. The crude material was purified by reverse phase automatic C-18 column chromatography (Combiflash RF, 130 g column), eluting with Acetonitrile/Water (10-80%) to afford ethyl 1-ethyl-8-fluoro-6,7-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate (26 g, 80 mmol, 57.9% yield) as a white solid.

reactant | ethyl 8-fluoro-6,7-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate | 139 mmol, 41 g | FC=1C(=C(C=C2C(C(=CNC12)C(=O)OCC)=O)OC)OC | C14H14FNO5
reactant | potassium carbonate | 208 mmol, 28.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethyl phosphate | 694 mmol, 118 ml | P(=O)(OCC)(OCC)OCC | C6H15O4P
solvent | water | O | H2O
product | ethyl 1-ethyl-8-fluoro-6,7-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate | 80 mmol, 26 g, 57.9% yield | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)OC)OC)=O)C(=O)OCC | C16H18FNO5
